US06667330B2
3-(1H-benzoimidazol-2-ylsulfanyl)-2-(1H-benzoimidazol-2-ylsulfanylmethyl)-4-hydroxy-5-oxo-2,5-dihydro-furan-2-carboxylic acid ethyl ester (32 g) prepared as described in Example 1 was suspended in water (400 mL) and ethanol (300 mL). The suspension was stirred continuously and aqueous sodium bicarbonate solution (23 g in 350 mL of water) was added dropwise during about 5 hours to maintain pH of around 7.5 to 8. The resulting mixture was stirred at 20° C. for 2 days. The milky mixture was put on a rotary evaporator to remove ethanol at a temperature below 40° C. under reduced pressure. The suspension became a clear solution soon after the evaporation started. During the evaporation process 400 mL of water were added to ensure complete removal of ethanol. The solution was adjusted to pH8 and allowed to stir at 40° C. for 18 hours. The product was precipitated out by acidifying the solution to pH 5-6 using acetic acid water solution (12 mL of acetic acid in 230 mL of water). The solid was filtered, washed with water (40 mL) and acetonitrile (40 mL), and dried under vacuum, giving 3-(1H-benzoimidazol-2-ylsulfanyl)-2-(1H-benzoimidazol-2-ylsulfanylmethyl)-4-hydroxy-5-oxo-2,5-dihydro-furan-2-carboxylic acid as a pale grey solid (16.5 g). 1HNMR (300 MHz, D2O) δ=7.10-6.70 (m, 8H), 3.80 (d, 1H), 3.60 (d, 1H) ppm. 13CNMR (75 MHz, D2O) δ=173.7, 173.2, 160.5, 156.6, 149.8, 149.3, 137.9, 122.2, 122.0, 113.7, 113.4, 104.5, 87.5, 37.4 ppm.

reactant | 3-(1H-benzoimidazol-2-ylsulfanyl)-2-(1H-benzoimidazol-2-ylsulfanylmethyl)-4-hydroxy-5-oxo-2,5-dihydro-furan-2-carboxylic acid ethyl ester | 32 g | C(C)OC(=O)C1(OC(C(=C1SC1=NC2=C(N1)C=CC=C2)O)=O)CSC2=NC1=C(N2)C=CC=C1 | C22H18N4O5S2
reactant | sodium bicarbonate | 350 mL, 23 g | C([O-])(O)=O.[Na+]
solvent | water | 400 mL | O | H2O
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 3-(1H-benzoimidazol-2-ylsulfanyl)-2-(1H-benzoimidazol-2-ylsulfanylmethyl)-4-hydroxy-5-oxo-2,5-dihydro-furan-2-carboxylic acid | 16.5 g | N1C(=NC2=C1C=CC=C2)SC=2C(OC(C2O)=O)(C(=O)O)CSC2=NC1=C(N2)C=CC=C1 | C20H14N4O5S2
